US05364614
(a) 1,2-Epoxy-3-dibenzylaminopropane
At 0° C., 100 g (506.9 millimoles) of dibenzylamine (dissolved in 300 ml of methylene chloride) is added dropwise to a thoroughly stirred suspension of 234.51 g (2.53 mol) of epichlorohydrin and 200 ml of 32% sodium hydroxide solution. The mixture is stirred for 2 hours at 0° C. and then 3 hours at room temperature. The mixture is diluted with 3 1 of water and extracted 3 times with 500 ml of methylene chloride. The organic phases are combined, dried over magnesium sulfate, and evaporated under vacuum. The remaining oil is flash-chromatographed on silica gel (mobile phase: methylene chloride/hexane/acetone: 20/10/3).

reactant | dibenzylamine | 506.9 millimoles, 300 ml, 100 g | C(C1=CC=CC=C1)NCC1=CC=CC=C1 | C14H15N
reactant | epichlorohydrin | 2.53 mol, 234.51 g | C(Cl)C1CO1 | C3H5ClO
reactant | sodium hydroxide | 200 ml | [OH-].[Na+]
solvent | water | O | H2O
product | 1,2-Epoxy-3-dibenzylaminopropane | O1CC1CN(CC1=CC=CC=C1)CC1=CC=CC=C1 | C17H19NO
